.subckt LELO_FDA_AHUJA_FOLDED VSS VDD VOP VON VIP VIN VCM IBIAS nVcmfb nVcmfb1
* =====================================================================
* LELO FDA - Ahuja-compensated FOLDED-CASCODE FDA, SKY130A 1.8 V.
*
* Replaces the 2-stage Ahuja FDA's stacked cascode (which fails PVT in
* 1.8 V due to headroom collapse) with a NMOS-input folded-cascode
* first stage.  Cc remains Ahuja-style (output -> PMOS-cascode SOURCE
* node), keeping the RHP-zero-free transfer function.
*
* Spec (Table 7-1): Avo > 100 dB, UGF > 5 MHz, PM > 50 deg,
*   SR > 5 V/us, swing >= 1 V, P < 2 mW, T = -40..125 C, VDD=1.8 V+-5%.
*
* ---- Stage 1: folded cascode -------------------------------------
*   Tail @ VSS sets I_TAIL = 100 uA -> M1/M2 each carry 50 uA.
*   PMOS top sources M3/M4 each source 100 uA -> fold node carries 50
*   uA into PMOS cascode M5/M6 to high-Z output node APOS/ANEG, then
*   down through NMOS cascode M7/M8 into NMOS sinks M9/M10 (50 uA).
*   Wide-swing Sooch cascode bias for both pcas and ncas.
*
* ---- Stage 2: PMOS CS + NMOS CMFB load (same as Ahuja FDA) -------
*   ML_P/N gates from APOS/ANEG, NMOS MU_P/N gates from nVcmfb.
*   I_2 = 100 uA per side.
*
* ---- Ahuja compensation ------------------------------------------
*   CC_P from VOP to BPOS (= source of M5 = top fold node).
*   CC_N from VON to BNEG.
*   Cc to cascode SOURCE kills RHP zero (Ahuja, JSSC 1983).
*
* ---- CMFB (resistive sense + PMOS diff amp) ----------------------
*   1MEG averager from VOP/VON -> v_cms.  PMOS pair compares to VCM,
*   NMOS mirror integrates -> nVcmfb -> MU gates.
*
* Currents (typical):
*   Tail        : 100 uA   (M_TAIL)
*   Top PMOS    : 100 uA each x2 = 200 uA  (M3/M4)
*   Stage 2 PMOS: 100 uA each x2 = 200 uA  (ML_P/N)
*   CMFB tail   : 50 uA
*   Bias gens   : ~50 uA total
*   ----------------------------------------------
*   Sum         : ~600 uA -> 1.08 mW < 2 mW spec.
* =====================================================================

* =====================================================================
* BIAS GENERATOR - Sooch wide-swing cascode mirrors. No resistors,
* no V-sources. IBIAS pin sinks 100 uA externally (XM_REF).
* =====================================================================

* NMOS master diode at IBIAS pin
XM_REF   IBIAS  IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8 L=1 W=10 nf=2 m=1

* PMOS reference branch: NMOS sink (gate=IBIAS) pulls 100 uA through
* PMOS-LVT diode -> vbp.
XM_PSNK  vbp    IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8 L=1 W=10 nf=2 m=1
XM_PREF  vbp    vbp    VDD    VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=20 nf=4 m=1

* ---- Sooch PMOS cascode bias (pcas) for M5/M6 (carry 50 uA each) ---
* Main W/L: M5 is L=1 W=20 nf=4 (same as M_PREF -> 1:1 mirror at 100 uA;
* but M5 carries 50 uA, so effective Vov is sqrt(0.5)x lower).
* Aux at 25 uA, (W/L)_aux = (W/L)_main / 4 -> W=10 nf=1 L=1 -> 2.5x
* Vov_main -> Vsg_aux = |Vt|+2|Vov_main| -> pcas = VDD - Vsg_aux.
XM_PCAUX pcas   pcas   VDD    VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=10 nf=1 m=1
XM_PCSNK pcas   IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8 L=1 W=5 nf=1 m=1

* ---- Sooch NMOS cascode bias (ncas) for M7/M8 (carry 50 uA each) ---
* Main M7 NMOS L=1 W=10 nf=2, Vov ~0.2 V at 50 uA.  Aux at 25 uA needs
* (W/L)_aux = (W/L)_main / 4 -> W=4 nf=1 L=1.  Vgs_aux = Vt+2*Vov_main
* -> ncas = Vgs_aux ~0.85 V.
XM_NCSRC ncas   vbp    VDD    VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=10 nf=1 m=1
XM_NCAUX ncas   ncas   VSS    VSS  sky130_fd_pr__nfet_01v8 L=1 W=4 nf=1 m=1

* =====================================================================
* STAGE 1 : NMOS-input folded cascode
* =====================================================================
* Tail (300 uA, 3x mirror of M_REF -> 150 uA per input branch)
XM_TAIL  ntail  IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8 L=1 W=30 nf=6 m=1

* NMOS input pair (100 uA / branch).  Drains connect directly to top
* fold nodes BPOS/BNEG (no R-wires; one physical node).
XM1     BPOS   VIN    ntail  VSS  sky130_fd_pr__nfet_01v8 L=1 W=40 nf=8 m=1
XM2     BNEG   VIP    ntail  VSS  sky130_fd_pr__nfet_01v8 L=1 W=40 nf=8 m=1

* Top PMOS current sources (250 uA each, 2.5x of M_PREF -> oversource
* so that fold current ~100 uA flows through M5p with 150 uA input).
* Drain = top fold node (BPOS / BNEG = Cc landing for Ahuja).
XM3p    BPOS   vbp    VDD    VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=50 nf=10 m=1
XM4p    BNEG   vbp    VDD    VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=50 nf=10 m=1

* PMOS folding cascode (carry ~100 uA each into output).
* Source = BPOS/BNEG (top fold), drain = APOS/ANEG (high-Z output).
XM5p    APOS   pcas   BPOS   VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=40 nf=8 m=1
XM6p    ANEG   pcas   BNEG   VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=40 nf=8 m=1

* NMOS bottom cascode (carry 100 uA each from output to sink)
XM7n    APOS   ncas   nlowp  VSS  sky130_fd_pr__nfet_01v8 L=1 W=20 nf=4 m=1
XM8n    ANEG   ncas   nlown  VSS  sky130_fd_pr__nfet_01v8 L=1 W=20 nf=4 m=1

* NMOS sink (100 uA each, gated by INNER CMFB nVcmfb1 -- sets the
* stage-1 high-Z node APOS/ANEG to V_OCM via negative feedback).
XM9n    nlowp  nVcmfb1 VSS    VSS  sky130_fd_pr__nfet_01v8 L=1 W=10 nf=2 m=1
XM10n   nlown  nVcmfb1 VSS    VSS  sky130_fd_pr__nfet_01v8 L=1 W=10 nf=2 m=1

* =====================================================================
* STAGE 2 : PMOS-LVT CS, NMOS CMFB load (matches Ahuja FDA)
* =====================================================================
* Long L for high ro at the output.  W shrunk so stage 2 idle current
* is ~100 uA per side (was 875 uA at W=80, way over budget).
* Reduced from L=4 W=80 to L=2 W=40 (same W/L, but 4x smaller gate area)
* to drop Cgg loading on APOS → push dominant pole up → max GBW.
XML_P   VOP    APOS   VDD    VDD  sky130_fd_pr__pfet_01v8_lvt L=2 W=80 nf=4 m=1
XML_N   VON    ANEG   VDD    VDD  sky130_fd_pr__pfet_01v8_lvt L=2 W=80 nf=4 m=1

XMU_P   VOP    nVcmfb VSS    VSS  sky130_fd_pr__nfet_01v8 L=2 W=40 nf=2 m=1
XMU_N   VON    nVcmfb VSS    VSS  sky130_fd_pr__nfet_01v8 L=2 W=40 nf=2 m=1

* =====================================================================
* AHUJA CASCODED-MILLER COMPENSATION
* Cc from outputs to PMOS-cascode SOURCE node (= top fold node BPOS/BNEG).
* Kills RHP zero.  Sized for ~5 MHz GBW with CL=10 pF.
* =====================================================================
CC_P     VOP    BPOS   0.5p
CC_N     VON    BNEG   0.5p

* Small caps on stage-1 high-Z node (APOS/ANEG) push that pole down,
* making the stage-1 pole the dominant pole.
CA_P     APOS   VSS    2p
CA_N     ANEG   VSS    2p

* =====================================================================
* CMFB : resistive averager + PMOS diff amp (same as Ahuja FDA).
* Polarity: V_OCM up -> v_cms up -> Q_CMS Vsg shrinks -> I_diode side
* down -> NMOS mirror sinks LESS -> nVcmfb rises -> MU sinks more ->
* V_OCM down.  Negative feedback. ✓
* =====================================================================

RSP    VOP    v_cms  1MEG
RSN    VON    v_cms  1MEG

* PMOS top tail (50 uA, 0.5x of M_PREF)
XQT_CM stail_cm vbp  VDD    VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=10 nf=2 m=1

* PMOS diff pair: SENSE side (gate=v_cms) -> diode-loaded; REF side
* (gate=VCM) -> mirror-loaded -> nVcmfb output.
XQ_CMS n_diode v_cms stail_cm VDD sky130_fd_pr__pfet_01v8_lvt L=0.5 W=20 nf=2 m=1
XQ_REF nVcmfb  VCM   stail_cm VDD sky130_fd_pr__pfet_01v8_lvt L=0.5 W=20 nf=2 m=1

* NMOS load: diode at SENSE side, mirror at REF side -> nVcmfb.
XQL_REF n_diode n_diode VSS    VSS sky130_fd_pr__nfet_01v8 L=1 W=10 nf=1 m=1
XQL_CMS nVcmfb  n_diode VSS    VSS sky130_fd_pr__nfet_01v8 L=1 W=10 nf=1 m=1

* CMFB stability cap at integrator output
CCMC   nVcmfb VSS    2p

* =====================================================================
* INNER CMFB : senses (APOS+ANEG)/2 -> drives M9n/M10n gates.
* Without this, the stage-1 high-Z fold output APOS/ANEG has no DC
* bias and rails.  Same topology as outer CMFB but smaller.
* Polarity: APOS up -> v_cms1 up -> Q_CMS1 Vsg shrinks -> diode side
* current down -> NMOS mirror sinks LESS -> nVcmfb1 rises -> M9n
* sinks more -> APOS down. ✓ Negative feedback.
* =====================================================================

RSP1   APOS   v_cms1 1MEG
RSN1   ANEG   v_cms1 1MEG

* PMOS top tail (50 uA, 0.5x of M_PREF)
XQT_CM1 stail_cm1 vbp VDD    VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=10 nf=2 m=1

* PMOS diff pair: SENSE side (gate=v_cms1) -> diode-loaded; REF side
* (gate=VCM) -> mirror-loaded -> nVcmfb1 output.
XQ_CMS1 n_diode1 v_cms1 stail_cm1 VDD sky130_fd_pr__pfet_01v8_lvt L=0.5 W=20 nf=2 m=1
XQ_REF1 nVcmfb1  VCM    stail_cm1 VDD sky130_fd_pr__pfet_01v8_lvt L=0.5 W=20 nf=2 m=1

* NMOS load: diode at SENSE side, mirror at REF side -> nVcmfb1.
XQL_REF1 n_diode1 n_diode1 VSS    VSS sky130_fd_pr__nfet_01v8 L=1 W=10 nf=1 m=1
XQL_CMS1 nVcmfb1  n_diode1 VSS    VSS sky130_fd_pr__nfet_01v8 L=1 W=10 nf=1 m=1

* Inner-CMFB stability cap at integrator output
CCMC1  nVcmfb1 VSS   2p

.ends
